US05952499
III. Chlorambucil-Gly-Tris-Tripalmitate
To a solution of chlorambucil (0.240 g, 0.789 mmol) in DCM (16 ml) at 0° C. was added DCC (0.171 g, 0.828 mmol) and DMAP (0.005 g, 0.039 mmol), followed by the Gly-Tris-Tripalmitate (0.740 g, 0.828 mmol). The resulting mixture was stirred at room temperature overnight. The precipitate was filtered and the filtrate washed with 5% acetic acid aqueous solution, then H2O three times until the pH was 7. The organic phase was dried (MgSO4), then concentrated in vacuo. The crude product was purified by the flash chromatography (30%, 40% ethyl acetate/hexane), then recrystallized from ethyl acetate/hexane to give the title compound (0.45 g) as a white solid in 48.2% yield.

reactant | chlorambucil | 0.789 mmol, 0.240 g | C1=CC(=CC=C1CCCC(=O)O)N(CCCl)CCCl | C14H19Cl2NO2
reactant | DCC | 0.828 mmol, 0.171 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Gly Tris Tripalmitate | 0.828 mmol, 0.740 g | NCC(=O)O.C(C(CO)(CO)N)O.CCCCCCCCCCCCCCCC(=O)OCC(COC(=O)CCCCCCCCCCCCCCC)OC(=O)CCCCCCCCCCCCCCC
solvent | DCM | 16 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.039 mmol, 0.005 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | Chlorambucil Gly Tris Tripalmitate | 0.45 g, 48.2% yield | C1=CC(=CC=C1CCCC(=O)O)N(CCCl)CCCl.NCC(=O)O.C(C(CO)(CO)N)O.CCCCCCCCCCCCCCCC(=O)OCC(COC(=O)CCCCCCCCCCCCCCC)OC(=O)CCCCCCCCCCCCCCC | InChI=1S/C51H98O6.C14H19Cl2NO2.C4H11NO3.C2H5NO2/c1-4-7-10-13-16-19-22-25-28-31-34-37-40-43-49(52)55-46-48(57-51(54)45-42-39-36-33-30-27-24-21-18-15-12-9-6-3)47-56-50(53)44-41-38-35-32-29-26-23-20-17-14-11-8-5-2;15-8-10-17(11-9-16)13-6-4-12(5-7-13)2-1-3-14(18)19;5-4(1-6,2-7)3-8;3-1-2(4)5/h48H,4-47H2,1-3H3;4-7H,1-3,8-11H2,(H,18,19);6-8H,1-3,5H2;1,3H2,(H,4,5)
